US07465731B2
To a solution of (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)acrylic acid (338 mg, crude) in DMF (4 mL) was added O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (153 mg), HOBt (203 mg), and EDCI (233 mg) and the resulting mixture was stirred at ambient temperature for 3 hours. The reaction mixture was diluted with water and extracted with AcOEt. The organic phase was washed with sat NH4Cl aq solution, sat NaHCO3 aq solution, and brine, and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by preparative thin layer chromatography (chloroform:methanol=90:10) to give (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (306 mg) as pale yellow form.

reactant | (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)acrylic acid | 338 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)/C=C/C(=O)O)C | C20H23N3O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 153 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 203 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 233 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 306 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)/C=C/C(=O)NOC1OCCCC1)C | C25H32N4O3
